US08802666B2
(R)-ethyl 6-acetamido-2-aminohexanoate (186)
Boc-Lys(Ac)-OH (1 equivalent, 0.2 g, 0.69 mmol) was dissolved in EtOH (2 mL). The reaction mixture was cooled at −10° C., and SOCl2 (1.5 equivalent, 76 μl, 1.035 mmol) was added dropwise. The mixture was allowed to warm to room temperature, then heated at 40° C. for 20 h (TLC control). The reaction mixture was concentrated and the crude was purified by flash chromatography (CH2Cl2/MeOH) to afford the compound (120 mg, 80%) as a white solid Rf=0.62 (CH2Cl2/MeOH 70/30).

reactant | Boc-Lys(Ac)-OH | 0.69 mmol, 0.2 g, 1 equivalent | N([C@@H](CCCCNC(=O)C)C(=O)O)C(=O)OC(C)(C)C | C13H24N2O5
reactant | SOCl2 | 1.035 mmol, 76 μl, 1.5 equivalent | O=S(Cl)Cl | Cl2OS
reactant | EtOH | 2 mL | CCO | C2H6O
product | (R)-ethyl 6-acetamido-2-aminohexanoate | 120 mg, 80% | C(C)(=O)NCCCC[C@H](C(=O)OCC)N | C10H20N2O3
